US06288239B1
Preparation of 3-Hydroxy-4-trityloxy Butyramide (2)
11.9 g (0.10 mol) (S)-3,4-dihydroxy-butyramide was dissolved in 50 ml of tetrahydrofuran and 50 ml of dimethylformamide and 10 ml of pyridine followed by 30.6 g (0.11 mol) of trityl chloride was added to the flask. A drying tube filled with calcium chloride was used to exclude moisture. The reaction mixture was stirred at room temperature for 36 hours. After this period of time, it was filtered to remove the solid. The liquid was concentrated under reduced pressure to remove most of the solvent. The solution was poured into ice water, stirred for half an hour and the water layer was removed from the trityl protected amide. The product which was obtained as a semicrystalline liquid was dried under vacuum. The excess trityl chloride was washed away by trituration with hexane. The yield was 33.0 g (91%). Physical data: m.p. 59.0-60.0° C. (from solvent dichloromethane:hexane:acetone=6:3:0.5) [α]25D=−53.5° (c=0.5,, methanol). 1H NMR (300 MHz, CDCl3) δppm, 7.50-7.20 (m, 15 H), 6.17 (s, 1H), 5.62 (s, 1H), 4.19 (m, 1H), 3.17 (d, 2H, J=5.7 Hz), 2.41 (m, 2H). 13C NMR (75 MHz, CDCl3) δppm, 174.8, 143.5, 128.3, 127.5, 126.7, 86.3, 67.4, 39.2. FTIR cm−1 3345, 1667, 1600, 1490, 1448, 1218, 1074, 763, 703.

reactant | (S)-3,4-dihydroxy-butyramide | 0.10 mol, 11.9 g | O[C@@H](CC(=O)N)CO | C4H9NO3
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | trityl chloride | 0.11 mol, 30.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 3-Hydroxy-4-trityloxy Butyramide | OC(CC(=O)N)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H23NO3
